US04356315
Five-hundred grams molten erucic acid were slowly added to a mixture of 679 gms toluene and 723 gms concentrated sulfuric acid while maintaining the temperature below 10° C. Tolyldocosanoic acid (acid value 123) was obtained in 82% yield. Distilled tolyldocosanoic acid (108 gms), 400 mls acetic acid 9.8 gms Co(OAc)2.4H2O and 1.3 gms ZrO(OAc)2 were then heated at 105° C. and 350 psi O2 for six hours during which time the acid value increased from 127 to 207. The selectivity to the desired carboxyphenyldocosanoic acid was 64.4% at a tolyldocosanoic conversion of 53.7%.

reactant | erucic acid | Five-hundred grams | C(CCCCCCCCCCC\C=C/CCCCCCCC)(=O)O | C22H42O2
reactant | sulfuric acid | 723 gms | S(O)(O)(=O)=O | H2O4S
reactant | toluene | 679 gms | C1(=CC=CC=C1)C | C7H8
product | Tolyldocosanoic acid | 82% yield | C1(=C(C=CC=C1)C(C(=O)O)CCCCCCCCCCCCCCCCCCCC)C | C29H50O2
